US04427687
3.0 g (0.019 mol) of 5-oxo-2,2,4-trimethyl-3-thiazoline oxime are suspended in 10 ml of absolute acetonitrile. To the suspension at 0° C. there are successively added 5.5 g of anhydrous potassium carbonate and, dropwise, a solution of 4.52 g of N-(di-n-butylaminosulphenyl)-N-methylcarbamoyl fluoride in 10 ml of absolute acetonitrile. The reaction mixture is allowed to stir well at room temperature for 20 hours. Subsequently, the precipitated potassium salt is filtered off, and the filtrate is evaporated. Chromatography of the crude oily product on silica gel with ethyl acetate/toluene (1:3) as the eluent yields 5-oxo-2,2,4-trimethyl-3-thiazoline O-[N-(di-n-butylaminosulphenyl)-N-methylcarbamoyl]oxime, nD20 1.5200.

reactant | 5-oxo-2,2,4-trimethyl-3-thiazoline oxime | 0.019 mol, 3.0 g | N(O)=C1C(=NC(S1)(C)C)C | C6H10N2OS
reactant | potassium carbonate | 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-(di-n-butylaminosulphenyl)-N-methylcarbamoyl fluoride | 4.52 g | C(CCC)N(SN(C(=O)F)C)CCCC | C10H21FN2OS
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 5-oxo-2,2,4-trimethyl-3-thiazoline O-[N-(di-n-butylaminosulphenyl)-N-methylcarbamoyl]oxime | C(CCC)N(SN(C(=O)ON=C1C(=NC(S1)(C)C)C)C)CCCC | C16H30N4O2S2
